US07319102B1
Preparation of 7-(4-fluorophenyl)-2-(2-hydroxy-1,2-dimethyl-propylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (2-chlorophenyl)-amide (28):
To a solution of 7-(4-fluoro-phenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (2-chloro-phenyl)-amide, 27, (0.11 g, 0.25 mmol) in N-methyl-pyrrolidinone (3 mL) is added diisopropylethylamine (0.22 mL, 1.28 mmol) and 3-amino-2-methyl-butan-2-ol hydrochloride salt (0.11 g, 0.77 mmol). The mixture is heated to 140° C. for 4 hours and the resulting solution purified by preparative HPLC to afford the desired product as a yellowish solid: 1H NMR (300 MHz, CDCl3) δ 8.58 (s, 1H), 8.33 (d, J=8.1 Hz, 1H), 8.23 (s, 1H), 7.45-7.40 (m, 3H), 7.32-7.22 (m, 3H), 7.13 (t, J=8.1 Hz, 2H), 3.92-3.82 (m, 1H), 1.26 (d, J=9.1 Hz, 6H), 1.20 (d, J=6.8 Hz, 3H); ESI+ MS: m/z (rel intensity) 468.0.0 (100, M++H).

reactant | 7-(4-fluoro-phenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (2-chloro-phenyl)-amide | ClC1=C(C=CC=C1)NC(=O)C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N1C1=CC=C(C=C1)F | C20H14ClFN4O3S
reactant | diisopropylethylamine | 1.28 mmol, 0.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-amino-2-methyl-butan-2-ol hydrochloride salt | 0.77 mmol, 0.11 g | Cl.NC(C(C)(O)C)C
solvent | N-methyl-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 7-(4-fluorophenyl)-2-(2-hydroxy-1,2-dimethyl-propylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (2-chlorophenyl)-amide | ClC1=C(C=CC=C1)NC(=O)C1=CC2=C(N=C(N=C2)NC(C(C)(C)O)C)N1C1=CC=C(C=C1)F | C24H23ClFN5O2
